US07670591B2
5-(6-Methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-amine
The title compound was synthesised according to the procedure described for 5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine starting from 2-aminopyrimidine-5-boronic acid pinacol ester. 1H NMR δ ppm 8.89 (s, 2H) 7.61 (d, 1H) 7.48 (s, 2H) 7.37 (d, 1 H) 6.97 (dd, 1H) 3.83 (s, 3H); MS m/z 243 (M+H).

reactant | 5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)N)C=C1 | C13H11N3O2
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
product | 5-(6-Methoxy-1,3-benzoxazol-2-yl)pyrimidin-2-amine | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)N)C=C1 | C12H10N4O2
